US04496551
Preparation of (1,1-Dimethylethoxy)(1H-imidazol-1-ylmethyl)methyl(phenyl)silane
A mixture of 3.6 g (0.015 mol) of chloromethyl(1,1-dimethylethoxy)methyl(phenyl)silane and 1.3 g (0.015 mol) of imidazole sodium salt in 10 ml of dimethylformamide was stirred at 50° for 3 hours, allowed to stand at room temperature for 72 hours, poured into water, and extracted with ether. The ether extracts were washed three times with water and once with brine, dried over magnesium sulfate, and evaporated to leave 3.8 g of an oil. Impurities were removed by Kugelrohr distillation at 90° (airbath)/0.05 mm to leave 2.9 g (71%) of the title compound as a pale yellow oil: nD20 15291; ir (neat) 3105, 3070, 3045, 2970, 1590, 1500, 1425, 1360, 1250, 1235, 1185, 1110, 1055, 1020, 900, 805, 740, 700, 660 cm-1 ; nmr (CDCl3): 0.6 (3H, s), 1.3 (9H, s), 3.6 (2H, s), 6.8 (1H, s), 7.0 (1H, s) and 7.3-7.7 (6H, m).

reactant | chloromethyl(1,1-dimethylethoxy)methyl(phenyl)silane | 0.015 mol, 3.6 g | ClC[Si](C1=CC=CC=C1)(C)OC(C)(C)C | C12H19ClOSi
reactant | imidazole sodium salt | 0.015 mol, 1.3 g | [Na].N1C=NC=C1
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (1,1-Dimethylethoxy)(1H-imidazol-1-ylmethyl)methyl(phenyl)silane | 3.8 g | CC(C)(O[Si](C1=CC=CC=C1)(C)CN1C=NC=C1)C | C15H22N2OSi
